US05459243
A mixture of 6-azathymine (purchased from Aldrich Chemical Co.) (5.0 g, 39.4 mmol), hexamethyldisilazane (HMDS) (15 ml), and chlorotrimethylsilane (TMSCl) (0.5 ml), in a round bottom flask (50 ml) fitted with a condenser and a drying tube, is refluxed by heating in an oil bath (150° C.); NH4Cl collects as white powder in the condenser. When a clear solution was obtained (1 hr.), the excess of HMDS/TMSCl was removed by distillation at 30° C./torr (bath temp 100° C.). The residual oil crystallized on drying under vacuum (0.1 torr), giving 6.57 g (61%) of 6-methyl-3,5-bis(trimethylsiloxy)-1,2,4-triazine, mp 43° C.

reactant | 6-azathymine | 39.4 mmol, 5.0 g | N1C(=O)NC(=O)C(C)=N1 | C4H5N3O2
reactant | hexamethyldisilazane | 15 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | 0.5 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | NH4Cl | [NH4+].[Cl-]
product | 6-methyl-3,5-bis(trimethylsiloxy)-1,2,4-triazine | 6.57 g, 61% | CC1=C(N=C(N=N1)O[Si](C)(C)C)O[Si](C)(C)C | C10H21N3O2Si2
